US08222266B2
Preparation 9: 5-Methyl-2-methylsulfanyl-4-pyridin-3-yl-pyrimidine (Prep 9)
A mixture of 4-chloro-5-methyl-2-methylsulfanyl-pyrimidine (1.24 g, 7.1 mmol), pyridine-3-boroni acid (1.04 g, 8.46 mmol), Na2CO3 (863 mg, 7.76 mmol), PPh3 (186 mg, 0.71 mmol) and Pd(OAc)2 (40 mg) in n-PrOH (50 ml) was refluxed for 2 hours. The solvent was then evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with ethyl acetate-petroleum ether (1-1) to afford 1.28 g of the title compound as a white solid (83% yield)

reactant | 4-chloro-5-methyl-2-methylsulfanyl-pyrimidine | 7.1 mmol, 1.24 g | ClC1=NC(=NC=C1C)SC | C6H7ClN2S
reactant | pyridine-3-boroni acid | 8.46 mmol, 1.04 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 7.76 mmol, 863 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.71 mmol, 186 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 50 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-Methyl-2-methylsulfanyl-4-pyridin-3-yl-pyrimidine | 1.28 g, 83% yield | CC=1C(=NC(=NC1)SC)C=1C=NC=CC1 | C11H11N3S
